US06384028B1
To a solution of trimethylsulfoxonium iodide (1.16 g, 5.25 mmol) in dimethylsulfoxide (10 ml) was added sodium hydride (60% dispersion in oil, 210 mg, 5.25 mmol) under 0° C., and the solution was stirred at room temperature for 10 minutes. To the resulting mixture was added a solution of 3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acrylic acid methyl ester (1.37 g, 5.09 mmol) was added dropwise under 0° C., and it was stirred for 1 hour at room temperature and for 2 hours at 50° C. After cooling to 0° C., saturated aqueous ammonium chloride was added to quench the reaction. The mixture was extracted with diethyl ether 50 ml×2), and the organic phase was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The residue was purified by column chromatography (n-hexane/ethyl acetate=7/1) to give 2-(1-tert-butoxycarbonyl-4-piperidyl)-(1R*,2S*)-cyclopropane-1-carboxylic acid methyl ester.

reactant | trimethylsulfoxonium iodide | 5.25 mmol, 1.16 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 5.25 mmol, 210 mg | [H-].[Na+]
reactant | 3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acrylic acid methyl ester | 5.09 mmol, 1.37 g | COC(\C=C\C1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H23NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-(1-tert-butoxycarbonyl-4-piperidyl)-(1R*,2S*)-cyclopropane-1-carboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](C1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H25NO4
